US09193741B2
Synthesis of 5-amino-7-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-2-(4-fluorophenylamino)-thiazolo[5,4-d]pyrimidine
A mixture of 5-amino-7-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-2-methylsulfinyl-thiazolo[5,4-d]pyrimidine (47 mg, 0.1 mmol) and 4-fluoroaniline (95 μl, 1 mmol) in dioxane (5 ml) was heated under reflux for 12 hours. The reaction mixture was evaporated in vacuo and purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio of 1/80), yielding the pure title compound (45 mg, 88%).

reactant | 5-amino-7-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-2-methylsulfinyl-thiazolo[5,4-d]pyrimidine | 0.1 mmol, 47 mg | NC=1N=C(C2=C(N1)SC(=N2)S(=O)C)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C18H19ClN6O3S2
reactant | 4-fluoroaniline | 1 mmol, 95 μl | FC1=CC=C(N)C=C1 | C6H6FN
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 5-amino-7-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-2-(4-fluorophenylamino)-thiazolo[5,4-d]pyrimidine | 45 mg, 88% | NC=1N=C(C2=C(N1)SC(=N2)NC2=CC=C(C=C2)F)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C23H21ClFN7O2S
